Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
shortness of breath/wheezing
 
Major Surgical or Invasive Procedure:
___ CyberKnife OTV 2 of 3 

 
History of Present Illness:
___ female with history of lung adenocarcinoma with
metastases to brain and liver and bone (new dx s/p resection of 
L
brain met lesion on ___ presenting with complaint of
difficulty breathing and coughing. Patient initially triggered 
at
triage for severe tachypnea and respiratory distress. 

She states that she actually has had very severe persistent 
cough
in the past after having URI symptoms. She DENIES history of
asthma though that is listed in many prior OMR notes. States ___
years ago she had a similar presentation of persistent
cough/dyspnea after a cold, which occurred around the same time
of year - late ___ early ___. At that point she reports 
her
doctors ___ officially diagnose a pneumonia but they did give
her antibiotics and she ultimately went on a ___ d supply of
steroids and albuterol which helped significantly. She states 
she
did have a cold recently in beginning of ___ this year, and
states she was coughing all of ___ and ___ even though 
she
was apparently also on antibiotics and steroids during that 
time.
At that point, her cough was only occurring during the day and
not at night. Was not productive, no fever.
Then ___ came and she developed confusion and was admitted to
the hospital for new cancer diagnosis at which time she thinks
the cough improved - note she was started on steroids again in
that setting. Last week she tapered her dex to 2mg daily, and
today she was supposed to go down to 1mg daily. 

Last week she noticed the cough starting in the middle of the
week especially last ___ feeling a bit better but 
at
midnight awoke with coughing and weheezing and couldn't stop
coughing. ___ night she again had cough all night.
Interestingly over the past week, she denies having cough during
the day. However she does not think that dyspnea is clearly 
worse
laying flat. During this interview she is sitting upright and
coughing persistently. States this morning she laid flat for
cyberknife for 70 minutes and felt fine. Cough is not really
productive but occasionally she notes clear mucous. No fevers.
Denies dyspnea until ___ and today at which point felt she
couldn't catch her breath and came to ED. Denies sore throat or
rhinorrhea or sick contacts or headache. States she has been
keeping up with her PO intake, but was trying to cut back as she
felt she has been gaining weight again. No leg swelling. She 
does
states that when she coughs she had been having some right sided
lateral rib cage pain but this seems largely resolved now. No
nausesa nausea/vomiting. NO dysuria. All other 10 point ROS neg.

VS in ER initially ___ 30 93% RA, but ultimately 107
115/73 21 100% RA . CTA chest was done which showed no PE. Labs
with WBC 13 (down from 18), hct stable at 35. Chem reassuring.
plts 281. She was started on Vancomycin and cefepime for concern
for post obstuctive pneumonia though CXR did not show acute
process (note it did suggest PAH). She was given 10mg IV dex. 
She
was seen by neurosurgery NP as a courtesy visit since she
recently had craniotomy in ___ and they felt NTD from their
standpoint. Note that her first trop at 2pm was flat. However,
her EKG did show TWI and Q waves in III, and ST dep V1-4. She
denied chest pain.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
-Patient presented to an outside hospital in ___ with
confusion and dysarthria.  A CT scan was performed on ___ showing edema and mass-effect in the left frontal brain
causing midline shift.  An MRI brain was performed on ___
showing a circumscribed but irregular enhancing mass in the left
brain with significant surrounding edema.  On ___ she
underwent resection of a left frontal solitary brain metastases
which revealed poorly differentiated adenocarcinoma of likely
pulmonary origin.  Immunohistochemical stains were negative for
CK 20, positive for CK 7, negative for TTF-1, napsin, p40.  On
___ a CT torso was performed which revealed a left
upper lobe mass and additional metastases in the liver, spleen
and omentum.  A bone scan was performed which revealed activity
in the left femur and left scapula.  She underwent an evaluation
by orthopedics and it was not recommended that she undergo
prophylactic fixation.  Radiation was recommended and
consideration of bisphosphonate therapy.

PAST MEDICAL HISTORY:
Hypertension
Hyperlipidemia
 
Social History:
___
Family History:
Father with history of prostate cancer, bladder cancer as a
result of radiation therapy to the prostate
 
Physical Exam:
===ADMISSION PHYSICAL EXAM===
General:  NAD
VITAL SIGNS: 98.1  118/63  104  18  98% RA
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  wheezy diffusely and nonproductive coughing frequently
during the interview
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes or skin breakdown
NEURO:  Cranial nerves II-XII are within normal limits excluding
visual acuity which was not assessed, no nystagmus; strength is
___ of the proximal and distal upper and lower extremities;
reflexes are 2+ of the biceps, triceps, patellar, and Achilles
tendons, toes are down bilaterally; gait is normal, Romberg is
non pathologic, coordination is intact.

===DISCHARGE PHYSICAL EXAM===
General:  NAD
VITAL SIGNS: 97.8PO 98 / 64 102 14 97 RA 
HEENT:  MMM
CV:  RR, NL S1S2 no  MRG
PULM:  diffuse wheezes though good air movement throguhout
ABD:  BS+, soft, NTND
LIMBS: WWP
SKIN:  No rashes or skin breakdown
NEURO:  Cranial nerves II-XII grossly intact
 
Pertinent Results:
===ADMISSION LABS===
___ 02:02PM BLOOD WBC-13.8* RBC-4.01 Hgb-11.3 Hct-35.6 
MCV-89 MCH-28.2 MCHC-31.7* RDW-15.9* RDWSD-51.9* Plt ___
___ 02:02PM BLOOD Neuts-79.7* Lymphs-10.7* Monos-7.4 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-11.00* AbsLymp-1.47 
AbsMono-1.02* AbsEos-0.11 AbsBaso-0.03
___ 02:02PM BLOOD Glucose-100 UreaN-12 Creat-0.6 Na-138 
K-3.8 Cl-95* HCO3-27 AnGap-20
___ 02:02PM BLOOD ALT-92* AST-44* AlkPhos-198* TotBili-0.8
___ 02:02PM BLOOD cTropnT-<0.01
___ 10:30PM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:30AM BLOOD CK-MB-1 cTropnT-<0.01
___ 02:02PM BLOOD Albumin-4.1 Calcium-10.6* Phos-4.5 Mg-2.0
___ 02:05PM BLOOD ___ pO2-51* pCO2-48* pH-7.41 
calTCO2-31* Base XS-4

===DISCHARGE LABS===
___ 07:43AM BLOOD WBC-15.0* RBC-3.64* Hgb-10.2* Hct-32.5* 
MCV-89 MCH-28.0 MCHC-31.4* RDW-16.3* RDWSD-53.1* Plt ___
___ 07:43AM BLOOD Glucose-93 UreaN-17 Creat-0.6 Na-134 
K-4.3 Cl-94* HCO3-29 AnGap-15
___ 07:43AM BLOOD Calcium-9.8 Phos-2.9 Mg-2.1

===MICRO===
___ STAIN-FINAL; RESPIRATORY 
CULTURE-FINALINPATIENT
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD

===STUDIES===
CXR  Study Date of ___ 2:03 ___
AP portable upright view of the chest. Left upper lobe mass,
better assessed on prior CT consistent with known malignancy.
There is mild atelectasis in the left lower lung. Right lung is
clear. Cardiomediastinal silhouette appears unchanged with
prominence of the main pulmonary artery likely reflecting
pulmonary arterial hypertension. Bony structures are intact.

___ CTA CHEST
1. No evidence of pulmonary embolism or aortic abnormality.
2. Progression of metastatic disease, as detailed above.

 
Brief Hospital Course:
___ female with history of lung adenocarcinoma with 
metastases to brain and liver and bone (new dx s/p resection of 
L brain met lesion on ___ presenting with complaint of 
difficulty breathing, wheezing and coughing in setting of 
dexamethasone taper. Patient has previously been documented to 
have asthma, though was not on any treatment prior to admission. 
Patient was started on a burst of prednisone with plan for a 
long taper, and symptoms resolved quickly after administration. 
Patient was also started on advair BID as a ___ inhaler 
with albuterol rescue prn. During hospitalization, patient 
continued to receive her regularly scheduled cyberknife and 
external beam radiation treatments. Patient was discharged with 
PCP and oncology ___. She remained normotensive during 
hospitalization so anti-hypertensives held on discharge.

TRANSITIONAL ISSUES:
====================
- STARTED Prednisone taper
- STARTED Advair 250mg BID 
- STARTED albuterol rescue inhaler prn
- HELD Dexamethasone while on prednisone
- HELD Triamterene and Losartan while normotensive

Imaging transitional issues:
- Left upper lobe lung mass now 5.1 x 4.4 (increased in size), 
multiple bilateral lung nodules also increased in size
- Pulmonary artery hypertension seen on CT Chest
- TTE shows EF70%, 1+MR. ___ circumferential pericardial 
effusion without echocardiographic evidence for hemodynamic 
compromise. Increased PCWP. Based on ___ AHA endocarditis 
prophylaxis recommendations, the echo findings indicate 
antimicrobial prophylaxis is NOT recommended.

CODE STATUS: FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
3. Dexamethasone 2 mg PO DAILY 
4. LevETIRAcetam 500 mg PO BID 
5. Losartan Potassium 50 mg PO DAILY 
6. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
7. Omeprazole 20 mg PO DAILY 
8. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

9. Simvastatin 20 mg PO QPM 
10. Triamterene 75 mg PO DAILY 
11. Docusate Sodium 100 mg PO BID 
12. Senna 8.6 mg PO BID:PRN constipation 
13. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs inh q6h:prn 
Disp #*1 Inhaler Refills:*0 
2.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/dose 1 
puff inh twice a day Disp #*1 Disk Refills:*0 
3.  PredniSONE 40 mg PO DAILY 
40mg ___. 30mg ___, 20mg ___, 10mg 
___. 5mg ___. 
Tapered dose - DOWN 
RX *prednisone 10 mg ___ tablet(s) by mouth once a day Disp 
#*42 Tablet Refills:*0 
4.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb inh q6h:prn 
Disp #*120 Vial Refills:*0 
5.  Atovaquone Suspension 1500 mg PO DAILY 
For PJP prophylaxis while on steroids.  
6.  Docusate Sodium 100 mg PO BID  
7.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough  
8.  LevETIRAcetam 500 mg PO BID  
9.  Nystatin Oral Suspension 5 mL PO QID:PRN thrush  
10.  Omeprazole 20 mg PO DAILY  
11.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
12.  Senna 8.6 mg PO BID:PRN constipation  
13.  Simvastatin 20 mg PO QPM  
14. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until discussing with 
your PCP or oncologist. Patient was normotensive during 
hospitalization.
15. HELD- Triamterene 75 mg PO DAILY  This medication was held. 
Do not restart Triamterene until discussing with your PCP or 
oncologist. Blood pressures were normal during hospitalization 
off this medication.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Reactive Airway Disease

Secondary Diagnoses:
Stage IV ___ lung cancer or a metastatic poorly 
differentiated adenocarcinoma
Solitary Brain Metastasis, Poorly Differentiated Adenocarcinoma
hypotension
tachycardia
leukocytosis
transaminitis
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
because you were having difficulty breathing and wheezing more 
than usual. We think that this might be due to a condition 
called "reactive airway disease," which makes it difficult to 
breathe. This is typically treated with steroids, and you did 
not notice your symptoms while you were on steroids for a 
different reason. 

We started you on a higher dose of steroids, which you will 
taper over the coming days. We are also starting new medications 
to prevent these symptoms from happening again. 

It will be very important that you take your medications as 
prescribed. 

It was a pleasure caring for you!
Your ___ Care Team
 
Followup Instructions:
___